US05600009
Crude 4-acetoxy-2-butanone was prepared as follows. A mixture of 4-hydroxy-2-butanone (101.48 g) and acetic anhydride (131.05 g) was stirred and heated to about 120° C. for about 40 minutes before the acetic acid by-product was removed by vacuum distillation at about 24 torr and vapor temperatures rising to about 49° C. The distillation residue was about 129.0 g of crude 4-acetoxy-2-butanone.

reactant | 4-hydroxy-2-butanone | 101.48 g | OCCC(C)=O | C4H8O2
reactant | acetic anhydride | 131.05 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-acetoxy-2-butanone | C(C)(=O)OCCC(C)=O | C6H10O3
